US05438052
5-Hydroxy-2-[(phthalimidooxy)methyl]-4(1H)-pyrimidinone (0.875 g) (3 mmol) is suspended in 7 ml of dimethylformamide. 136 mg (3 mmol) of methylhydrazine are added thereto at 10° C. and the mixture is stirred at room temperature for 1 hour. The solution is washed four times with 50 ml of n-pentane, the solid residue is taken up in ether, the product is filtered off and crystallized from ethanol. There is obtained 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone of m.p. 163° C. (dec.) as white crystals.

reactant | 5-Hydroxy-2-[(phthalimidooxy)methyl]-4(1H)-pyrimidinone | 3 mmol, 0.875 g | OC=1C(N=C(NC1)CON1C(C=2C(C1=O)=CC=CC2)=O)=O | C13H9N3O5
reactant | methylhydrazine | 3 mmol, 136 mg | CNN | CH6N2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone | NOCC=1NC=C(C(N1)=O)O | C5H7N3O3
